US06677337B2
Preparation of 4-{4-(4-fluorophenyl)-2-methyl-3-oxo-5-[2-(2-methoxy-1-(S)-methyl-ethylamino)-pyrimidin-4-yl]-2,3-dihydro-pyrazol-1-yl}-piperidine-1-carboxylic acid tert-butyl ester (24):
To a solution of 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester, 12, (6 g, 12 mmol) in toluene (30 mL) is added (S)-2-amino-3-methoxypropane (2.14 g, 24 mmol). After stirring at 90° C. for 2 hours, the reaction mixture is cooled to room temperature and then concentrated in vacuo. Purification over silica (50% EtOAc/hexane) affords the desired product.

reactant | 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(C(=C1C1=NC(=NC=C1)S(=O)(=O)C)C1=CC=C(C=C1)F)=O)C | C25H30FN5O5S
reactant | (S)-2-amino-3-methoxypropane | 24 mmol, 2.14 g | N[C@@H](C)COC | C4H11NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-{4-(4-fluorophenyl)-2-methyl-3-oxo-5-[2-(2-methoxy-1-(S)-methyl-ethylamino)-pyrimidin-4-yl]-2,3-dihydro-pyrazol-1-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(C(=C1C1=NC(=NC=C1)N[C@H](COC)C)C1=CC=C(C=C1)F)=O)C | C28H37FN6O4
